US08809372B2
To a suspension of 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol (2 g, 6.6 mmol) in ethanol (120 ml) was added 1,4-dioxane HCl (4 M, 1.66 mL, 6.6 mmol) slowly at 0° C., and then the mixture was stirred for 1 hour at room temperature. The solid that formed was filtered and washed with hexane (10 mL) to afford 4-(1-(1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol hydrochloride as an off-white solid (1.6 g, 71% yield), HPLC purity 99.7%, mp 229-232° C. 1H NMR (400 MHz, DMSO-d6): 8.81 (d, 2H), 8.04 (d, 2H), 7.92-7.89 (m, 3H), 7.29 (t, 2H), 7.13 (br s, 1H), 2.00 (s, 3H), LC-MS m/z calculated for [M+H]+ 301.07, found 301.1.

reactant | 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol | 6.6 mmol, 2 g | FC1=CC=C(C=C1)C=1SC(=CN1)C(C)(O)C1=CC=NC=C1 | C16H13FN2OS
reactant | 1,4-dioxane HCl | 6.6 mmol, 4 M, 1.66 mL | Cl.O1CCOCC1
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 1-(2-(4-fluorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol hydrochloride | 1.6 g, 71% yield | Cl.FC1=CC=C(C=C1)C=1SC(=CN1)C(C)(O)C1=CC=NC=C1 | InChI=1S/C16H13FN2OS.ClH/c1-16(20,12-6-8-18-9-7-12)14-10-19-15(21-14)11-2-4-13(17)5-3-11;/h2-10,20H,1H3;1H
